US07655666B2
2-Amino-5-(3-methyl-3H-[1,2,3]triazol-4-yl)-4-trifluoromethyl-benzoic acid methyl ester
To a solution of 2-amino-4-trifluoromethyl-5-iodo-benzoic acid methyl ester (1 g, 2.90 mmol) in dioxane (20 mL) were added 1-methyl-5-tributylstannanyl-1H-[1,2,3]triazole (2.02 g, 4.34 mmol) and Pd(dppf)2Cl2 (237 mg, 0.29 mmol) and the resulting mixture was stirred at 100° C. for 24 h. A portion of catalyst (0.1 equiv) was added and the mixture was stirred at 100° C. for an additional 7 h. The solvent was removed in vacuo to afford a dark oil. The residue was purified by flash chromatography (silica gel, EtOAc/hexanes (0:1000 to 40:60)) to provide the title compound as an off-white solid (357 mg, 41% yield). ES-MS: m/z 301.2 [M+H]+, rt 4.49 min.

reactant | 2-amino-4-trifluoromethyl-5-iodo-benzoic acid methyl ester | 2.90 mmol, 1 g | COC(C1=C(C=C(C(=C1)I)C(F)(F)F)N)=O | C9H7F3INO2
reactant | 1-methyl-5-tributylstannanyl-1H-[1,2,3]triazole | 4.34 mmol, 2.02 g | CN1N=NC=C1[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)2Cl2 | 0.29 mmol, 237 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-Amino-5-(3-methyl-3H-[1,2,3]triazol-4-yl)-4-trifluoromethyl-benzoic acid methyl ester | 357 mg, 41% yield | COC(C1=C(C=C(C(=C1)C=1N(N=NC1)C)C(F)(F)F)N)=O | C12H11F3N4O2
